US06756392B2
[4-({[5-Fluoro-2-(4-fluoro-phenoxy)-pyridine-3-carbonyl]-amino}-methyl)-benzyl]-carbamic acid tert-butyl ester (1.62 g, 3.44 mmol) (see Preparation 5) was dissolved in a 2.25 M solution of hydrochloric acid in methanol (100 ml) and the mixture stirred at room temperature under an atmosphere of nitrogen for 4 hours before removing the solvent in vacuo. The residue was dissolved in water (50 ml), the pH adjusted to pH higher than 8 by addition of sodium hydrogen carbonate and extracted with dichloromethane (3-fold 50 ml). The combined organic extracts were dried over anhydrous magnesium sulphate and concentrated in vacuo to give N-(4-aminomethyl-benzyl)-5-fluoro-2-(4-fluoro-phenoxy)-nicotinamide hydrochloride (1.25 mg) as a gum.

reactant | [4-({[5-Fluoro-2-(4-fluoro-phenoxy)-pyridine-3-carbonyl]-amino}-methyl)-benzyl]-carbamic acid tert-butyl ester | 3.44 mmol, 1.62 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CNC(=O)C=1C(=NC=C(C1)F)OC1=CC=C(C=C1)F)=O | C25H25F2N3O4
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | N-(4-aminomethyl-benzyl)-5-fluoro-2-(4-fluoro-phenoxy)-nicotinamide hydrochloride | 1.25 mg | Cl.NCC1=CC=C(CNC(C2=C(N=CC(=C2)F)OC2=CC=C(C=C2)F)=O)C=C1 | InChI=1S/C20H17F2N3O2.ClH/c21-15-5-7-17(8-6-15)27-20-18(9-16(22)12-25-20)19(26)24-11-14-3-1-13(10-23)2-4-14;/h1-9,12H,10-11,23H2,(H,24,26);1H
